US07947728B1
To 1H-Indole-6-carbaldehyde (1 g, 1.3 mmol, 1 eq) in acetonitrile (10 mL) was added potassium carbonate (1.5 g 11 mmol, 1.5 eq) and then di-tert-butyl-dicarbonate (2.39 g, 11 mmol, 1.5 eq). The reaction was heated, tetrahydrofuran (10 mL) was added, and the reaction refluxed for 5 hr. The reaction cooled to RT, diluted with ethyl acetate (150 mL) washed with NaCl solution (100 mL water, 100 mL brine), dried over sodium sulfate, concentrated, adsorbed onto silica gel and purified by flash chromatography with a gradient from 1-10% ethyl acetate in hexanes to yield 6-formyl-indole-1-carboxylic acid tert-butyl ester as a yellow, viscous oil (1.2 g). LC-MS (ES) calculated for C14H15NO3, 245.1; found m/z 246 [M+H]+.

reactant | 1H-Indole-6-carbaldehyde | 1.3 mmol, 1 g, 1 eq | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | potassium carbonate | 11 mmol, 1.5 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl-dicarbonate | 11 mmol, 2.39 g, 1.5 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 6-formyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C=O | C14H15NO3
